US05837711
A solution of 2-methoxy-5-nitrobenzaldehyde (100 g, 550 mmol), ethylene glycol (36.9 ml, 660 mmol) and CSA (5.00 g) was heated at reflux under dehydrating condition for 5 hr. After removal of the solvent, triethylamine (6 ml) was added to the residue and the mixture was recrystallized from first ethyl acetate and from next isopropanol to give 2-(2-methoxy-5-nitrophenyl)-1,3-dioxolane (99.7 g, 80.5%) as a yellow solid.

reactant | 2-methoxy-5-nitrobenzaldehyde | 550 mmol, 100 g | COC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | ethylene glycol | 660 mmol, 36.9 ml | C(CO)O | C2H6O2
catalyst | CSA | 5.00 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
product | 2-(2-methoxy-5-nitrophenyl)-1,3-dioxolane | 99.7 g, 80.5% | COC1=C(C=C(C=C1)[N+](=O)[O-])C1OCCO1 | C10H11NO5
